US05019583
A mixture of 4-[(1-oxopropyl)phenylamino]-piperidine (500 mg, 2.15 mmol), prepared according to the procedure of P. A. J. Janssen et al, U.S. Pat. No. 3,164,600, methyl bromoacetate (0.25 ml, 2.58 mmol), and potassium carbonate (594 mg, 4.3 mmol), in acetonitrile (2.5 ml) is stirred at room temperature for five hours. The reaction mixture is diluted with 1:1 water and ethyl acetate (20 ml total). The phases are separated and the aqueous phase extracted with ethyl acetate (2×) and the combined organics washed with brine, dried over sodium sulfate and then concentrated. The residue is chromatographed on silica gel (95/5 CHCl3 /MeOH) to give 4-[(1-oxopropyl)phenylamino]-1-piperidineacetic acid, methyl ester, as an oil: 348 mg, 53% yield. An equimolar amount of maleic acid in ether is added to a solution of the free base in ethyl acetate to give the maleate salt as a white solid; maleate salt: m.p. 130°-133° C.

reactant | 4-[(1-oxopropyl)phenylamino]-piperidine | 2.15 mmol, 500 mg | O=C(CC)N(C1CCNCC1)C1=CC=CC=C1 | C14H20N2O
reactant | methyl bromoacetate | 2.58 mmol, 0.25 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 4.3 mmol, 594 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-[(1-oxopropyl)phenylamino]-1-piperidineacetic acid, methyl ester | 53% yield | O=C(CC)N(C1CCN(CC1)CC(=O)OC)C1=CC=CC=C1 | C17H24N2O3
